US08497264B2
A solution of n-butyllithium (1.6M in hexanes; 6.52 mL, 10.44 mmol) was added drop wise to a solution of 2,2,6,6-tetramethylpiperidine (1.897 mL, 11.24 mmol) in THF (30 mL) at −78° C. under nitrogen atmosphere. The reaction mixture was warmed to 0° C. and stirred for 25 min. The reaction mixture was cooled down again to −78° C. and a solution of 2-fluoro-3-(methoxymethoxy)-6-(neopentyloxy)pyridine (2.149 g, 8.83 mmol) in THF (5 mL) was added drop wise. The reaction mixture was kept for 1 h at −78° C., after which a solution of 5-bromo-2-fluorobenzaldehyde (1.63 g, 8.03 mmol) in THF (5 mL) was added. The reaction mixture was allowed to warm up to rt. Aqueous, saturated NH4Cl solution was added, followed by EtOAc. The organic phase was separated and dried over MgSO4. The solvent was removed under reduced pressure and the residue was dissolved in DCM (75 mL). 4-Methylmorpholine 4-oxide (1.176 g, 10.04 mmol) followed by tetrapropylammonium perruthenate (0.141 g, 0.401 mmol) were added. The reaction mixture was allowed to stir for 2 h at rt. The reaction mixture was filtered through a pad of celite and the solvent was removed under reduced pressure. The residue was purified by flash chromatography (5-20% EtOAc/hexanes) to yield (5-bromo-2-fluorophenyl)(2-fluoro-3-(methoxymethoxy)-6-(neopentyloxy)pyridin-4-yl)methanone as a white solid.

reactant | n-butyllithium | 10.44 mmol, 1.6M, 6.52 mL | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 11.24 mmol, 1.897 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 2-fluoro-3-(methoxymethoxy)-6-(neopentyloxy)pyridine | 8.83 mmol, 2.149 g | FC1=NC(=CC=C1OCOC)OCC(C)(C)C | C12H18FNO3
reactant | 5-bromo-2-fluorobenzaldehyde | 8.03 mmol, 1.63 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | NH4Cl | [NH4+].[Cl-]
reactant | 4-Methylmorpholine 4-oxide | 10.04 mmol, 1.176 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tetrapropylammonium perruthenate | 0.401 mmol, 0.141 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-bromo-2-fluorophenyl)(2-fluoro-3-(methoxymethoxy)-6-(neopentyloxy)pyridin-4-yl)methanone | BrC=1C=CC(=C(C1)C(=O)C1=C(C(=NC(=C1)OCC(C)(C)C)F)OCOC)F | C19H20BrF2NO4
